US07473705B2
1.7 g (2.7 mmol) of (S)-2-{2-methyl-4-[2,2,2-trifluoro-1-(4-methoxy-benzyloxy)-1-trifluoromethyl-ethyl]-phenoxy}-3-phenyl-propionic acid benzyl ester was dissolved in a mixture of 11 mL of methanol and 11 mL of THF and cooled to 0° C. To this solution 1.0 g (26.9 mmol) of NaBH4 were added in portions, and the mixture was slowly warmed to room temperature overnight. Water was added, the phases were separated and the inorganic one was extracted with dichloromethane. The combined organic phases were washed with brine, dried (Na2SO4), filtered and evaporated. Purification by column chromatography with CH2Cl2/MeOH 95:5 yielded 960 mg (68%) (S)-2-{2-methyl-4-[2,2,2-trifluoro-1-(4-methoxy-benzyloxy)-1-trifluoromethyl-ethyl]-phenoxy}-3-phenyl-propan-1-ol as a light yellow oil, MS: 528 (M)+.

reactant | (S)-2-{2-methyl-4-[2,2,2-trifluoro-1-(4-methoxy-benzyloxy)-1-trifluoromethyl-ethyl]-phenoxy}-3-phenyl-propionic acid benzyl ester | 2.7 mmol, 1.7 g | C(C1=CC=CC=C1)OC([C@H](CC1=CC=CC=C1)OC1=C(C=C(C=C1)C(C(F)(F)F)(C(F)(F)F)OCC1=CC=C(C=C1)OC)C)=O | C34H30F6O5
reactant | NaBH4 | 26.9 mmol, 1.0 g | [BH4-].[Na+]
reactant | Water | O | H2O
solvent | methanol | 11 mL | CO | CH4O
solvent | THF | 11 mL | C1CCOC1 | C4H8O
product | (S)-2-{2-methyl-4-[2,2,2-trifluoro-1-(4-methoxy-benzyloxy)-1-trifluoromethyl-ethyl]-phenoxy}-3-phenyl-propan-1-ol | 960 mg, 68% | CC1=C(O[C@H](CO)CC2=CC=CC=C2)C=CC(=C1)C(C(F)(F)F)(C(F)(F)F)OCC1=CC=C(C=C1)OC | C27H26F6O4
